US20010003741A1
Synthesis of (1S,2S)-2-(9-carboxynonanoyl)amino-3-morpholino-1-phenyl-1-propanol
Methylene chloride (10 ml), triethylamine (190 μl, 1.37 mmol) and sebacic anhydride (292.4 mg, 1.59 mmol) were added to (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol (316.2 mg, 1.34 mmol), followed by stirring for 5 hours. Then, the solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:methanol=20:1 and chloroform:methanol=9:1) to obtain the title compound (171.1 mg, yield 30.4%) as colorless oil.

reactant | triethylamine | 1.37 mmol, 190 μl | C(C)N(CC)CC | C6H15N
reactant | sebacic anhydride | 1.59 mmol, 292.4 mg | C1(CCCCCCCCC(=O)O1)=O | C10H16O3
reactant | (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol | 1.34 mmol, 316.2 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C13H20N2O2
solvent | Methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S)-2-(9-carboxynonanoyl)amino-3-morpholino-1-phenyl-1-propanol | 171.1 mg, yield 30.4% | C(=O)(O)CCCCCCCCC(=O)N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C23H36N2O5
